US07351825B2
(1S,2R,3R)-1-t-butoxycarbonylamino-2-methyl-3-phenyl-cyclopropanecarboxylic acid t-butyl ester (step 5-2)
Under argon atmosphere, N,N-dimethylformamide di-t-butylacetal (5.0 mL, 21 mmol) was added dropwise to a solution of (1S,2R,3R)-1-t-butoxycarbonylamino-2-methyl-3-phenyl-cyclopropanecarboxylic acid (1.5 g, 5.2 mmol) obtained in Preparation Example 5-1 in toluene (15 mL) at 80° C. over 15 min, and the mixture was stirred for 1 hour. The obtained solution was cooled to 0° C. After saturated aqueous sodium hydrogen carbonate solution (15 mL) was added to the mixture, the organic layer was washed three times with water (10 mL) and dried over magnesium sulfate. Then, the title compound (1.8 g, yield 99%) was obtained as a pale-yellow oil by filtration and evaporation. The obtained product was used in the next step without further purification.

reactant | N,N-dimethylformamide di-t-butylacetal | 21 mmol, 5.0 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | (1S,2R,3R)-1-t-butoxycarbonylamino-2-methyl-3-phenyl-cyclopropanecarboxylic acid | 5.2 mmol, 1.5 g | C(C)(C)(C)OC(=O)N[C@]1([C@@H]([C@@H]1C1=CC=CC=C1)C)C(=O)O | C16H21NO4
reactant | sodium hydrogen carbonate | 15 mL | C(O)([O-])=O.[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (1S,2R,3R)-1-t-butoxycarbonylamino-2-methyl-3-phenyl-cyclopropanecarboxylic acid t-butyl ester | 1.8 g, yield 99% | C(C)(C)(C)OC(=O)[C@@]1([C@@H]([C@@H]1C1=CC=CC=C1)C)NC(=O)OC(C)(C)C | C20H29NO4
